US07737166B2
Benzyl (3S)-3-[(tert-butoxycarbonyl)amino]-3-methylpyrrolidine-1-carboxylate (I-346)
tert-Butyl [(3S)-3-methylpyrrolidin-3-yl]carbamate (I-345) (240 mg, 1.20 mmol) was dissolved in diethyl ether (12 ml), then an aqueous saturated sodium hydrogencarbonate solution (12 ml) was added, and at room temperature, benzyloxycarbonyl chloride (222 μl, 1.56 mmol) was added, followed by stirring at room temperature for 16 hours. The reaction liquid was extracted with ethyl acetate, and the obtained organic layer was washed with saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by concentration was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=2:1, v/v) to obtain the entitled compound (400 mg, 100%) as a colorless oily substance.

reactant | tert-Butyl [(3S)-3-methylpyrrolidin-3-yl]carbamate | 1.20 mmol, 240 mg | C[C@]1(CNCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | sodium hydrogencarbonate | 12 ml | C(O)([O-])=O.[Na+]
reactant | benzyloxycarbonyl chloride | 1.56 mmol, 222 μl | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | diethyl ether | 12 ml | C(C)OCC | C4H10O
product | Benzyl (3S)-3-[(tert-butoxycarbonyl)amino]-3-methylpyrrolidine-1-carboxylate | 400 mg, 100% | C(C)(C)(C)OC(=O)N[C@@]1(CN(CC1)C(=O)OCC1=CC=CC=C1)C | C18H26N2O4
